US07547691B2
Into a solution of 6,7-dihydrobenzo[b]thiophen-4(5H)-one (15.3 g, 100 mmol) in ether (600 mL) at −10° C. is added Br2 (16.0 g, 100 mmol) in carbon tetrachloride (CCl4) (100 mL) dropwise over 50 minutes. After an additional 15 minutes at −10° C., the cold bath is removed and the mixture is allowed to warm to ambient temperature. After 1 hour, the mixture is diluted with hexane (300 mL) and washed with water (2×500 mL), aqueous sodium chloride (150 mL) and concentrated under reduced pressure to yield the crude 5-bromo-6,7-dihydrobenzo[b]thiophen-4(5H)-one (22.7 g, 98%) to which is added DMF (˜200 mL), Li2CO3 (14.8 g, 200 mmol) and LiBr (17.4 g, 200 mmol). The mixture is heated for 5 hours at 90° C. and cooled. The crude mixture is poured into water, filtered and the filtrate extracted with EtOAc (600 mL), acidified to pH=1 with concentrated HCl and extracted with EtOAc (600 mL). The combined organic layers are concentrated under reduced pressure to yield a dark oil. The crude material is subjected to chromatography on silica gel, eluting with dichloromethane in hexanes 30-100%, to provide the title compound as an off-white solid (7.62 g, 51% yield).

reactant | 6,7-dihydrobenzo[b]thiophen-4(5H)-one | 100 mmol, 15.3 g | S1C2=C(C=C1)C(CCC2)=O | C8H8OS
reactant | Br2 | 100 mmol, 16.0 g | BrBr | Br2
solvent | ether | 600 mL | CCOCC | C4H10O
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromo-6,7-dihydrobenzo[b]thiophen-4(5H)-one | 22.7 g, 98% | BrC1C(C2=C(SC=C2)CC1)=O | C8H7BrOS
